US07678801B2
56b) 3-[8-(2,6-Difluoro-phenyl)-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propyl-benzamide
To 4-chloro-8-(2,6-difluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7 one (200 mg, 0.589 mmol, 1 eq) and 4-methyl-N-propyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide (268 mg, 0.883 mmol, 1.5 eq) in isopropanol (6 mL) was added sodium bicarbonate (148 mg, 1.76 mmol, 3 eq) in water (1.5 mL). The reaction mixture was then purged with nitrogen followed by addition of tetrakis(triphenylphosphine)-palladium(0) (34 mg, 0.029 mmol, 5 mol %). The mixture was then heated to about 80° C. overnight. The mixture was then allowed to cool to room temperature before the solvent was removed in vacuo. The residue was then purified on the Flashmaster 2™: LC-MS m/z 481 (M+H)+, 3.34 min (ret time).

reactant | 4-chloro-8-(2,6-difluoro-phenyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7 one | 0.589 mmol, 200 mg, 1 eq | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3OS
reactant | 4-methyl-N-propyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | 0.883 mmol, 268 mg, 1.5 eq | CC1=C(C=C(C(=O)NCCC)C=C1)B1OC(C(O1)(C)C)(C)C | C17H26BNO3
reactant | sodium bicarbonate | 1.76 mmol, 148 mg, 3 eq | C([O-])(O)=O.[Na+]
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
solvent | water | 1.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.029 mmol, 34 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[8-(2,6-Difluoro-phenyl)-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propyl-benzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)SC)=O | C25H22F2N4O2S
